### ISSUE TITLE
Tractatus: formalize logical space and propositional sense (TLP 2.202, 4.2)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10725]
## Context

The Tractatus has a rich notion of **logical space** — the totality of possible worlds — and the **sense** of a proposition as the region of logical space it picks out. These are central concepts (TLP 2.202, 2.11, 4.2, 4.463) that the current formalization doesn't address.

## Key Tractatus propositions

- TLP 2.202: "The picture represents a possible state of affairs in logical space."
- TLP 2.11: "The picture presents the state of affairs in logical space, the existence and non-existence of atomic facts."
- TLP 4.2: "The sense of a proposition is its agreement and disagreement with the possibilities of the existence and non-existence of the atomic facts."
- TLP 4.463: "The tautology leaves to reality the whole infinite logical space; the contradiction fills the whole logical space and leaves no point to reality."

## Proposed formalization

```lean
-- Logical space: the type of all possible worlds
def LogicalSpace (S : Type) := Set (World S)

-- The sense of a proposition: the set of worlds where it is true (TLP 4.2)
def Proposition.sense (p : Proposition S) : Set (World S) :=
  { w | p.eval w }

-- A tautology's sense is all of logical space (TLP 4.463)
theorem tautology_sense_is_full (p : Proposition S) (h : IsTautology p) :
    p.sense = Set.univ := ...

-- A contradiction's sense is empty (TLP 4.463)
theorem contradiction_sense_is_empty (p : Proposition S) (h : IsContradiction p) :
    p.sense = ∅ := ...

-- Two propositions are logically equivalent iff they have the same sense
theorem equiv_iff_same_sense (p q : Proposition S) :
    (∀ w, p.eval w ↔ q.eval w) ↔ p.sense = q.sense := ...

-- Negation flips the sense (complement in logical space)
theorem neg_sense (p : Proposition S) :
    (Proposition.neg p).sense = p.senseᶜ := ...

-- Conjunction intersects senses
theorem conj_sense (p q : Proposition S) :
    (Proposition.conj p q).sense = p.sense ∩ q.sense := ...

-- Disjunction unions senses
theorem disj_sense (p q : Proposition S) :
    (Proposition.disj p q).sense = p.sense ∪ q.sense := ...

-- Entailment is sense-inclusion
theorem entails_iff_sense_subset (p q : Proposition S) :
    (∀ w, p.eval w → q.eval w) ↔ p.sense ⊆ q.sense := ...
```

## Why this matters

1. **Philosophically central**: Logical space is arguably the Tractatus's deepest structural concept — more fundamental than truth-functions. Propositions *are* their senses (regions of logical space).
2. **Mathematically elegant**: The sense map is a Boolean algebra homomorphism from propositions to subsets of logical space. This connects the Tractatus to Stone duality and Boolean algebra theory.
3. **Connects to the saying/showing theme**: The topology of logical space is something that *shows itself* in the structure of propositions but cannot be *said* by any proposition.
4. **Nice Lean exercise**: Working with `Set` and proving set-theoretic identities via logical equivalences is a good intermediate Lean skill.

## Stretch goals

- Prove the sense map is a surjective Boolean algebra homomorphism (every region of logical space is the sense of some proposition — assuming we allow infinitary constructions or restrict to finite S)
- Define logical consequence and prove it's sense-inclusion
- Define logical space as a topological space and show propositions generate the clopen sets

## Acceptance criteria

- [ ] `Proposition.sense` defined
- [ ] Tautology/contradiction sense theorems proved
- [ ] At least neg/conj sense composition theorems proved
- [ ] Equivalence ↔ same sense theorem proved
- [ ] Annotations cite TLP 2.202, 4.2, 4.463
- [ ] Gallery overview updated to mention logical space

**Comment by rjwalters** [comment]
Curating this issue per user request.

## Technical Context

The existing formalization lives in a single file (`proofs/Proofs/TractatusOntology.lean`) with a matching gallery entry at `src/data/proofs/tractatus-ontology/`. Per the umbrella tracking issue #10731, all extensions are added as new **sections within the same file**, not as new proof files.

### What already exists

The current file (394 lines) provides:

- `World S` defined as `Sachverhalt → Prop` (line 68)
- `Proposition S` inductive type with `elementary`, `neg`, `conj` constructors (lines 82–85)
- `Proposition.eval : Proposition S → World S → Prop` recursive evaluator (lines 130–135)
- `IsTautology` and `IsContradiction` predicates (lines 148–151)
- Derived connectives `disj`, `impl`, `biimp`, `nand` in the `Proposition` namespace (lines 99–112)
- 13 proven theorems; one deliberate `sorry` for `proposition_seven`

### What this issue adds

The issue proposes a "Section 8: Logical Space and Sense" positioned after the tautology/contradiction definitions (per the section ordering in #10731). The machinery — worlds, evaluation, tautology/contradiction — is all already in place. This issue is essentially about naming the structure that is already implicit: defining `Proposition.sense`, proving it behaves as a Boolean algebra homomorphism, and connecting this to the existing `IsTautology`/`IsContradiction` predicates.

### Key design observations

**`LogicalSpace` is trivial given the existing types.** The issue proposes:
```lean
def LogicalSpace (S : Type) := Set (World S)
```
But `Set (World S)` is just `(Sachverhalt → Prop) → Prop`. Unless `LogicalSpace` adds additional structure (e.g., a topology or a Boolean algebra instance), it can remain a type alias. The actual substance is in `Proposition.sense`.

**`Proposition.sense` is the preimage of `True` under `eval`.** Given the existing `eval`:
```lean
def Proposition.sense (p : Proposition S) : Set (World S) :=
  { w | p.eval w }
```
This is definitionally `Set.preimage (p.eval ·) {True}`, or equivalently `{w | p.eval w}`. Set-builder notation works directly because `World S` is just a `Prop`-valued function and `Set (World S)` is `(World S) → Prop`.

**The six proposed theorems are all provable by `simp [Proposition.sense, Proposition.eval, Set.ext_iff]` + classical tactics.** None requires novel proof structure; they are direct translations of the set-theoretic semantics into the existing type.

**Tautology/contradiction restatement.** The issue's `tautology_sense_is_full` connects to the existing `IsTautology`:
```lean
-- IsTautology p ↔ p.sense = Set.univ
-- IsContradiction p ↔ p.sense = ∅
```
These follow from `Set.eq_univ_iff_forall` and `Set.eq_empty_iff_forall_not_mem` from Mathlib, both in `Mathlib.Order.SetNotation`.

**The `equiv_iff_same_sense` theorem** is the most interesting: it states proposition extensionality — two propositions are logically equivalent iff they have the same sense. This is a non-trivial (philosophically) but easy (proof-technically) result: it follows directly from `Set.ext_iff` and the definitions.

**Boolean algebra structure.** The sense map `Proposition.sense : Proposition S → Set (World S)` is a surjective Boolean algebra homomorphism. The `Set (World S)` type already has a `BooleanAlgebra` instance in Mathlib (via `Pi.instBooleanAlgebra` or `Set.instBooleanAlgebra`). Proving that `sense` is a homomorphism amounts to proving the neg/conj/disj composition theorems proposed in the issue. Proving surjectivity (every subset of `World S` is the sense of some proposition) requires either infinite disjunctions or restricting to finite `S` — the issue correctly identifies this as a stretch goal.

### Proof sketches for the six core theorems

```lean
-- These are all provable with standard simp lemmas:

theorem tautology_sense_is_full (p : Proposition S) (h : IsTautology p) :
    p.sense = Set.univ := by
  ext w; simp [Proposition.sense, Set.mem_univ, h w]

theorem contradiction_sense_is_empty (p : Proposition S) (h : IsContradiction p) :
    p.sense = ∅ := by
  ext w; simp [Proposition.sense, h w]

theorem equiv_iff_same_sense (p q : Proposition S) :
    (∀ w, p.eval w ↔ q.eval w) ↔ p.sense = q.sense := by
  simp [Proposition.sense, Set.ext_iff]

theorem neg_sense (p : Proposition S) :
    (Proposition.neg p).sense = p.senseᶜ := by
  ext w; simp [Proposition.sense, Proposition.eval, Set.mem_compl_iff]

theorem conj_sense (p q : Proposition S) :
    (Proposition.conj p q).sense = p.sense ∩ q.sense := by
  ext w; simp [Proposition.sense, Proposition.eval, Set.mem_inter_iff]

theorem disj_sense (p q : Proposition S) :
    (Proposition.disj p q).sense = p.sense ∪ q.sense := by
  ext w; simp [Proposition.disj, Proposition.sense, Proposition.eval,
               Set.mem_union, not_and_or, not_not]

theorem entails_iff_sense_subset (p q : Proposition S) :
    (∀ w, p.eval w → q.eval w) ↔ p.sense ⊆ q.sense := by
  simp [Proposition.sense, Set.subset_def]
```

### Placement within the file

Insert the new section between the tautology/contradiction definitions (Section 7, currently at line 136) and the theorems section (Section 8, currently at line 154). The section header should mirror the existing style with `═══` borders.

### Annotations to add

Four new annotations are needed in `src/data/proofs/tractatus-ontology/annotations.json`:
1. `ann-tractatus-logical-space` — definition annotation for `LogicalSpace` + `Proposition.sense` (TLP 2.202, 4.2)
2. `ann-tractatus-sense-tautology` — theorem annotation for `tautology_sense_is_full` / `contradiction_sense_is_empty` (TLP 4.463)
3. `ann-tractatus-sense-composition` — theorem annotation for neg/conj/disj/entailment sense theorems
4. `ann-tractatus-sense-boolean-algebra` — insight annotation on the Boolean algebra homomorphism / Stone duality connection

### Gallery overview update

`meta.json` needs updates:
- `leanFile.theoremCount`: from `15` to `22` (adding 7 new theorems)
- `leanFile.lineCount`: approximate (394 + ~60 lines for the new section)
- `sections[]`: add new section entry for "Logical Space and Propositional Sense (TLP 2.202, 4.2)"
- `meta.originalContributions`: add entry about the Boolean algebra homomorphism
- `conclusion.openQuestions`: could add a note about Stone duality and topological space on worlds

## Implementation Guidance

**Approach: single self-contained section within `TractatusOntology.lean`**

1. Open the file at line 136 (after `IsContradiction` definition).
2. Insert a new section header block with the `═══` style.
3. Define `LogicalSpace` (type alias) and `Proposition.sense` (set-builder definition).
4. Add the seven theorems in order: tautology sense, contradiction sense, equiv-iff-same-sense, neg sense, conj sense, disj sense, entailment-iff-subset.
5. Add a closing philosophical comment on Boolean algebra homomorphism and Stone duality (as a block comment, not a `/-!` docstring — the Aristotle parser has issues with `/-!`).
6. Update `src/data/proofs/tractatus-ontology/meta.json`: section list, theorem count, line count.
7. Add four new annotations to `src/data/proofs/tractatus-ontology/annotations.json`.

**Complexity estimate**: Low-to-medium. The definitions are straightforward; the proofs are all one-liners or two-liners using `simp` and `ext`. The main work is writing the annotations and ensuring the philosophical framing connects correctly to TLP 2.202 and 4.2.

**No new imports required.** All needed Mathlib lemmas (`Set.ext_iff`, `Set.mem_compl_iff`, `Set.mem_inter_iff`, `Set.mem_union`, `not_and_or`, `not_not`) are already available via `import Mathlib.Tactic`.

**Do not use `/-!` docstring delimiters** — use `/-` for all block comments. The Aristotle proof search parser has a known incompatibility with `/-!` sections.

**Build verification**: After implementation, run `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` to confirm Lean compilation. The sorry count should remain at 1 (only `proposition_seven`).

## Affected Files

- `proofs/Proofs/TractatusOntology.lean` — Add new section (~60 lines) between lines 136 and 154: `LogicalSpace` type alias, `Proposition.sense` definition, and seven theorems
- `src/data/proofs/tractatus-ontology/meta.json` — Update `leanFile.theoremCount` (15 → 22), `leanFile.lineCount`, add section entry, update `originalContributions`
- `src/data/proofs/tractatus-ontology/annotations.json` — Add four new annotation objects (sense definition, tautology/contradiction sense, composition theorems, Boolean algebra insight)

## Test Plan

- [ ] Manual verification: `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` compiles with 0 errors and exactly 1 sorry (the existing `proposition_seven`)
- [ ] Automated tests: `pnpm build` passes (gallery data validates against schema)
- [ ] Content check: All seven theorems from the issue acceptance criteria are present and proved (not `sorry`): `tautology_sense_is_full`, `contradiction_sense_is_empty`, `equiv_iff_same_sense`, `neg_sense`, `conj_sense`, `disj_sense`, `entails_iff_sense_subset`
- [ ] Annotation check: Annotations cite TLP 2.202, 4.2, and 4.463 by TLP number
- [ ] Gallery overview: `meta.json` `sections[]` includes the new logical-space section with correct `startLine`/`endLine`
- [ ] Edge cases: Verify `disj_sense` uses the De Morgan-defined `disj` correctly (not a new constructor)

## Related Issues

- #10731 — Umbrella tracking issue; this is listed as a "Core extensions (high value)" item
- #10727 — Logical consequence/entailment issue; `entails_iff_sense_subset` proved here is used by that issue as motivation for `Entails`
- #10724 — Concrete examples issue; `#eval` of `sense` on finite `S` would be a natural example
- #10730 — Saying/showing issue; the Boolean algebra homomorphism noted here connects to the showing theme
